* /usr/bin/gnetlist -v -g spice-sdb -o /home/ksarkies/Electronics-Development/batterycharger/batterycharger.ckt /home/ksarkies/Electronics-Development/batterycharger/batterycharger.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from /home/ksarkies/Electronics-Development/spice-models/models.lib vvvvvvvv
* Spice models being used in simulations

**  BJT

************************************************************************************

.MODEL T2N2222 NPN( LEVEL=1 BF=241 C2=3.16 NE=1.35 IK=.35
+ IS=3.52E-14 VA=100 VB=100 BR=13.1 C4=60.6 NC=1.61 IKR=.106
+ CJE=23.8PF ME=.43 PE=1.0 CJC=14.7PF MC=.42 PC=1.0
+ RE=.26 RC=.30 RB=2.1 TF=.31NS TR=89NS )
*
************************************************************************************

* General Purpose amplifier from National Semiconductor - Name=2N3904
* Page # 11-57 of 1989 Data book from NSC
.model Q2N3904 NPN( LEVEL=1 BF=238,IS=1.27E-14,RB=12,RC=25,RE=.3,
+VA=241,IK=.1099,C2=2.92,NE=1.399,TF=1.53E-10,CJE=5.9P,PE=.83,ME=.4,
+CJC=2.11P,PC=.5,MC=.5,EG=1.11)
************************************************************************************

* General Purpose amplifier from National Semiconductor - Name=2N3906
* Page # 11-123 of 1989 Data book from NSC
.model Q2N3906 PNP( LEVEL=1 BF=135,BR=4.55,IS=4.47E-15,RB=5.8,RC=25,RE=.8,
+VA=25,VB=10.8,IK=61.7M,C2=4.25,NE=1.394,IKR=.03,C4=100,NC=1.325,TF=.282N,
+CJE=5.67P,PE=.83,ME=.4,CJC=2.21P,PC=.43,MC=.5,EG=1.11)
************************************************************************************

*From Philips SC04 "Small signal transistors 1991"
* Base spreading parameters (RB,IRB,RBM) estimated. TR derived using BCY58 data
.model BC546B NPN( LEVEL=1 IS=7.59E-15 VAF=73.4 BF=480 IKF=0.0962 NE=1.2665
+    ISE=3.278E-15 IKR=0.03 ISC=2.00E-13 NC=1.2 NR=1 BR=5 RC=0.25 CJC=6.33E-12
+    FC=0.5 MJC=0.33 VJC=0.65 CJE=1.25E-11 MJE=0.55 VJE=0.65 TF=4.26E-10
+    ITF=0.6 VTF=3 XTF=20 RB=100 IRB=0.0001 RBM=10 RE=0.5 TR=1.50E-07)
************************************************************************************
*From Philips SC04 "Small signal transistors 1991"
* Base spreading parameters (RB,IRB,RBM) estimated. TR from BCY70 data
.model BC556B PNP( LEVEL=1 IS=3.50E-15 VAF=80.5 BF=330 IKF=0.1018 NE=1.3140
+    ISE=3.816E-16 IKR=0.03 ISC=5.00E-13 NC=1.6 NR=1 BR=5 RC=0.35 CJC=8.80E-12
+    FC=0.5 MJC=0.28 VJC=1 CJE=1.00E-11 MJE=0.38 VJE=0.4 TF=7.00E-10
+    ITF=0.6 VTF=3 XTF=11.5 RB=100 IRB=0.0001 RBM=10 RE=0.75 TR=2.00E-07)

************************************************************************************
*From Philips SC04 "Small signal transistors 1991"
* Hfe vs ic from NS Discrete 1978 @ vce = 10V. PS and MOT data @ vce=1v only. TR estimated - no data available
.model BC337 NPN( LEVEL=1 IS=8.52E-15 VAF=120.7 BF=280 IKF=1.1412 NE=1.3647
+    ISE=3.562E-14 IKR=0.1 ISC=1.00E-12 NC=1.4 NR=1 BR=10 RC=0.05 CJC=1.20E-11
+    FC=0.5 MJC=0.28 VJC=0.4 CJE=3.10E-11 MJE=0.38 VJE=0.9 TF=4.10E-10
+    ITF=1.5 VTF=3 XTF=25 RE=0.2 TR=8.00E-10)
************************************************************************************

*From Philips SC04 "Small signal transistors 1991"
* Hfe vs ic from NS Discrete 1978 @ vce = 10V. PS and MOT data @ vce=1v only. TR  estimated - no data
.model BC327 PNP( LEVEL=1 IS=2.48E-13 VAF=99.6 BF=170 IKF=0.9648 NE=1.7746
+    ISE=3.464E-12 IKR=0.1 ISC=1.00E-12 NC=1.4 NR=1 BR=10 RC=0.05 CJC=2.00E-11
+    FC=0.5 MJC=0.37 VJC=0.6 CJE=4.70E-11 MJE=0.44 VJE=0.6 TF=9.70E-10
+    ITF=1.9 VTF=3 XTF=25 RE=0.2 TR=2.00E-07)
************************************************************************************
.MODEL T2N3055  NPN( LEVEL=1 BF=73   BR=2.66 RB=.81    RC=.0856  RE=.000856
+      CJC=1000P    PC=.75  MC=.33  TR=.5703U IS=2.37E-8
+      CJE=415P     PE=.75  ME=.5   TF=99.52N NE=1.26   IK=1)
************************************************************************************

** DIODE

************************************************************************************

.MODEL D1N4148  D( RS=.8   IS=2.4P    N=1.77 BV=75    IBV=.001  CJO=1.5P
+                 VJ=.75   M=.5     TT=5.8N )
************************************************************************************

.MODEL D1N914 D( IS=2.90E-09 RS=2.000 N=1.8000 TT=4.68E-07
+ CJO=2.53E-11 VJ=0.90000 M=0.50000 )
*
************************************************************************************
* Copyright 1989, 1990 by MicroSim Corporation
*  5.1V Zener

.model D1N5231	D(Is=1.004f Rs=.5875 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=160p M=.5484
+		Vj=.75 Fc=.5 Isr=1.8n Nr=2 Bv=5.1 Ibv=27.721m Nbv=1.1779
+		Ibvl=1.1646m Nbvl=21.894 Tbv1=176.47u)
*		Motorola	pid=1N5231	case=DO-35
*		89-9-18-gjg
*		Vz = 5.1 @ 20mA, Zz = 175 @ 1mA, Zz = 8.2 @ 5mA, Zz = 2.2 @ 20mA
************************************************************************************

**  MOSFET

************************************************************************************

.SUBCKT irf1104 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
**************************************
* Model generated on Jan  6, 98
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=4.016 LAMBDA=0 KP=24.9968
+CGSO=2.67866e-05 CGDO=1.00181e-06
RS 8 3 0.0001
D1 3 1 MD
.MODEL MD D IS=2.9505e-11 RS=0.00319022 N=1.10603 BV=40
+IBV=0.00025 EG=1.2 XTI=2.95239 TT=1.99991e-05
+CJO=3.41485e-09 VJ=1.33209 M=0.470743 FC=0.1
RDS 3 1 1e+06
RD 9 1 0.00327083
RG 2 7 4.09017
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.7269e-09 VJ=0.934228 M=0.806705 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 2.28735e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irf1104************************************************************************************

*^^^^^^^^  End of included SPICE model from /home/ksarkies/Electronics-Development/spice-models/models.lib ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
V2 Vcc12 0 12V
Q3 Short Control 0 T2N2222 
R5 Q1coll Vcc12 10K  
R4 Base Vcc5 100K  
Q2 Isolate Base 0 Q2N3904 
Q1 Q1coll Base Panelm Q2N3904 
R3 Isolate Vcc5 10K  
Vpanel Panelp Panelm DC 28V
R2 Control Vcc5 10K  
X2 Panelm Isolate 0 irf1104
Rs Vcc12 Panelp 2  
R1 Short Capacitor 1K  
X1 Vcc12 Gate Panelm irf1104
C2 Capacitor Panelm 0.47uF  
D2 Panelm Gate D1N5231 
Vcontrol Control 0 pulse 5 0 10n 10n 100n 20u 100u
D1 Vcc12 Capacitor D1N914 
R6 Short Gate 10  
V3 Vcc5 0 5V
.end
